US08629168B2
a) (4-Bromo-oxazolo[5,4-c]pyridin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine
0.6 g (2.61 mmol) 4-bromo-2-methylsulfanyl-oxazolo[5,4-c]pyridine are heated to 100° C. until it liquefies, then 0.977 g (5.23 mmol) 3,4,5-trimethoxyanilin is added in small portions with stirring. Stirring is continued for 2 h. The reaction mixture is cooled to room temperature and purified by chromatography (silicagel, hexane=>EtOAc) to afford the title compound.

reactant | 4-bromo-2-methylsulfanyl-oxazolo[5,4-c]pyridine | 2.61 mmol, 0.6 g | BrC1=NC=CC2=C1OC(=N2)SC | C7H5BrN2OS
reactant | 3,4,5-trimethoxyanilin | 5.23 mmol, 0.977 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | (4-Bromo-oxazolo[5,4-c]pyridin-2-yl)-(3,4,5-trimethoxy-phenyl)-amine | BrC1=NC=CC2=C1OC(=N2)NC2=CC(=C(C(=C2)OC)OC)OC | C15H14BrN3O4
